US04742069
After boiling 2.5 g of 3-nitrobenzylidene-acetoacetic acid methyl ester and 2.06 g of 4-amino-N,N-dimethyl-2-oxo-3-pentenesulfonamide is a mixture of 10 ml of isopropanol and 5 ml of dimethylformamide for 6 hours there were obtained 2.3 g of 1,4-dihydro-2,6-dimethyl-5-[(dimethylsulfamoyl)acetyl]-4-(3-nitrophenyl)nicotinic acid methyl ester of melting point 154°-157° (yellow crystalline powder from ethanol).

reactant | 3-nitrobenzylidene-acetoacetic acid methyl ester | 2.5 g | COC(CC(=O)C=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C12H11NO5
reactant | 4-amino-N,N-dimethyl-2-oxo-3-pentenesulfonamide | 2.06 g | NC(=CC(CS(=O)(=O)N(C)C)=O)C | C7H14N2O3S
reactant | isopropanol | 10 ml | C(C)(C)O | C3H8O
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | 1,4-dihydro-2,6-dimethyl-5-[(dimethylsulfamoyl)acetyl]-4-(3-nitrophenyl)nicotinic acid methyl ester | 2.3 g | COC(C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(CS(N(C)C)(=O)=O)=O)C)C)=O | C19H23N3O7S
